data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_551215_0,[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[H:8])([N:5]([H:12])[H:13])(/[N:6]=[N:7]/[N:4]([H:10])[H:11])[H:9]>>[C:1](\[N:5]([H:12])[H:13])(=[N:6]/[N:7]([N:3]([C:2]([H:14])([H:15])[H:16])[H:8])[N:4]([H:10])[H:11])[H:9],61.61234249999737
MR_554188_0,[C:1](/[C:6](=[C:3](/[N:2](/[C:5](=[N:8]/[H:12])[H:13])[O:7][H:9])[N:4]([H:10])[H:11])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:6](/[C:3](=[N:2]\[O:7][H:9])[N:4]([H:10])[H:11])(/[C:5](=[N:8]/[H:12])[H:13])[H:14])([H:15])([H:16])[H:17],60.36173500001596
MR_446984_1,[C@:1]12([H:11])[N:2]([H:10])[C@:4]([O:7][H:9])([H:12])[C@@:3]1([O:6][H:8])[O:5]2>>[C:1]1([H:11])([H:12])[N:2]([H:10])[C:4]([O:7][H:9])=[C:3]([O:6][H:8])[O:5]1,39.37374250003671
MR_396600_1,[C:1]([O:2][O:4][H:7])([O:3][O:5][H:8])([O:6][H:9])[H:10]>>[C:1]([O:2][O:3][O:5][H:8])([O:4][H:7])([O:6][H:9])[H:10],56.09975500000431
MR_271882_0,[C:1]([C:3]([N:2](/[N:6]=[N:7]/[N:4]([H:9])[H:10])[H:8])=[C:5]([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1]([C:3]1([C:5]([H:9])([H:14])[H:15])[N:2]([H:8])[N:6]1/[N:7]=[N:4]/[H:10])([H:11])([H:12])[H:13],67.85220250000904
MR_294421_2,[C:1](\[C:3]([C:2]([C:4]([H:18])([H:19])[H:20])([H:11])[H:22])([H:16])[H:17])(=[C:6](\[C:7](=[C:5]([H:21])[H:23])[N:9]([H:14])[H:15])[N:8]([H:12])[H:13])[H:10]>>[C:1]1(/[C:6](=[C:7](\[C:5]([H:21])([H:22])[H:23])[N:9]([H:14])[H:15])[N:8]([H:12])[H:13])([H:10])[C:2]([C:4]([H:18])([H:19])[H:20])([H:11])[C:3]1([H:16])[H:17],62.15826749997447
MR_519505_2,[C:1]([C:3]([C:2]([H:13])([H:14])[H:15])=[O:8])([C:4]([N:5]([H:11])[H:12])=[C:6]([H:16])[H:17])([O:7][H:9])[H:10]>>[C:1]([C:3]([C:2]([H:13])([H:14])[H:15])([C:4]([N:5]([H:11])[H:12])=[C:6]([H:16])[H:17])[O:8][H:9])(=[O:7])[H:10],45.565912499990446
MR_515062_2,[C:1]([C:2]([O:7][H:11])=[O:8])([O:4][N:3]([H:12])[H:13])([O:5][H:9])[O:6][H:10]>>[C:1]([N:3]([H:12])[H:13])([O:4][C:2]([O:7][H:11])=[O:8])([O:5][H:9])[O:6][H:10],64.41601250001696
MR_672288_0,[C:1]([C:2]([H:14])([H:15])[H:16])([N:4]([C:3]([H:17])([H:18])[H:19])[H:10])(/[C:5]([O:7][H:9])=[N:8]\[H:13])[N:6]([H:11])[H:12]>>[C:1]1([C:2]([H:14])([H:15])[H:16])([N:6]([H:11])[H:12])[C:5]([N:4]([C:3]([H:17])([H:18])[H:19])[H:10])([O:7][H:9])[N:8]1[H:13],55.282122499999815
MR_179177_1,[C@@:1]([C:2]([C:6](=[C:7]([H:18])[H:19])[H:14])([H:12])[H:13])([C:3]([H:15])([H:16])[H:17])([N:4]([H:9])[H:10])[C:5](=[O:8])[H:11]>>[C@:1]1([C:3]([H:15])([H:16])[H:17])([N:4]([H:9])[H:10])[C:2]([H:12])([H:13])[C@:6]1([C:7]([C:5](=[O:8])[H:11])([H:18])[H:19])[H:14],66.76223500001441
MR_76722_0,[C:1]([C:2]([H:11])([H:12])[H:13])([N:4]([O:7][H:8])[H:9])([C:5]([C:3]([H:14])([H:15])[H:16])=[C:6]([H:17])[H:18])[H:10]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:5](/[C:3]([H:14])([H:15])[H:16])[C:6]([N:4]([O:7][H:8])[H:9])([H:17])[H:18])[H:10],60.283297499999975
MR_181683_0,[C:1]([C:4](/[N:3]=[N:6]/[H:9])(/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:7]/[H:11])[O:8][H:10])([H:12])([H:13])[H:14]>>[C:1]([C:4]([N:3](/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:7]/[H:11])[N:6]([H:9])[H:10])=[O:8])([H:12])([H:13])[H:14],34.5620725000218
MR_79414_1,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:9])([H:13])[H:14])([C:5]([C:4]([H:15])([H:16])[H:17])=[C:6]([H:18])[H:19])[O:7][H:8]>>[C:1]1([C:2]([H:10])([H:11])[H:12])([C:3]([H:9])([H:13])[H:14])[C@:5]([C:4]([H:15])([H:16])[H:17])([O:7][H:8])[C:6]1([H:18])[H:19],73.00899750000866
MR_522619_0,[C:1](=[C:2]([H:12])[H:13])([N:4]([C:5](=[C:7]([H:17])[H:18])/[N:8]=[C:6](\[C:3]([H:14])([H:15])[H:16])[H:11])[H:9])[H:10]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([H:10])[N:4]([H:9])[C:5](=[C:7]([H:17])[H:18])[N:8]=[C:6]1[C:3]([H:14])([H:15])[H:16],64.55469000002353
MR_291276_0,[C:1]([N:3]([C:5]1([H:11])[C:4]2([C:2]([H:15])([H:16])[H:17])[N:7]([O:6][H:9])[N:8]21)[H:10])([H:12])([H:13])[H:14]>>[C:1]([N:3](/[C:5](=[N:8]/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:7]/[O:6][H:9])[H:11])[H:10])([H:12])([H:13])[H:14],8.275470000044294
MR_244475_1,[C:1]([C:6]([C:2]([H:14])([H:18])[H:19])=[N:8][N:3]([C:5]([N:4]([N:7]([H:12])[H:13])[H:11])=[O:9])[H:10])([H:15])([H:16])[H:17]>>[C:1]([C:6]([C:2]([H:14])([H:18])[H:19])([N:4]([N:7]([H:12])[H:13])[H:11])[N:8]1[N:3]([H:10])[C:5]1=[O:9])([H:15])([H:16])[H:17],72.79815750000594
MR_189049_2,[C:1]([C:2]([C:3](=[O:6])[H:10])=[C:4]([H:11])[H:12])([O:5][H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O:6][H:7])([H:9])[H:10])=[C:4]([H:11])[H:12])(=[O:5])[H:8],68.50793999999425
MR_171338_1,[C:1]([C:4](/[C:3]([N:5]([H:10])[H:11])=[C:6](/[O:8][H:9])[H:12])=[C:7](\[C:2]([H:17])([H:18])[H:19])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:4]1=[C:3]([N:5]([H:10])[H:11])[C@:6]([O:8][H:9])([H:12])[C@@:7]1([C:2]([H:17])([H:18])[H:19])[H:13])([H:14])([H:15])[H:16],33.798405000023735
MR_610451_0,[C:1]([N:3]([C:4](=[O:7])[O:8][C:5]([C:2]([H:15])([H:16])[H:17])=[O:9])[N:6]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:3]([C:4]([O:7][C:5]([C:2]([H:15])([H:16])[H:17])=[O:9])=[O:8])[N:6]([H:10])[H:11])([H:12])([H:13])[H:14],20.330372499998788
